US06930104B2
N-[1-[1-(3,4-Dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinyl]-1,2,3,4-tetrahydro-6-quinolinyl]butanamide
Starting with cis-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol (800 mg, 2.44 mmol) prepared in Reference Example 1 and N-(1,2,3,4-tetrahydro-6-quinolinyl)butanamide (1.33 g, 6.1 mmol), the same procedure as shown in Example 1 was repeated to give the titled compound (463 mg, yield: 36%) as a colorless oil. (cis:trans=1:1.3)

reactant | cis-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol | 2.44 mmol, 800 mg | COC=1C=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)O)C)C=CC1OC | C19H21NO4
reactant | N-(1,2,3,4-tetrahydro-6-quinolinyl)butanamide | 6.1 mmol, 1.33 g | N1CCCC2=CC(=CC=C12)NC(CCC)=O | C13H18N2O
product | N-[1-[1-(3,4-Dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinyl]-1,2,3,4-tetrahydro-6-quinolinyl]butanamide | 463 mg, yield: 36% | COC=1C=C(C(=O)N2C(CC(C3=CC=CC=C23)N2CCCC3=CC(=CC=C23)NC(CCC)=O)C)C=CC1OC | C32H37N3O4
